US05703246
P,P-diphenyl-N-phenylmethylene phosphinic amide was prepared following the method of Jennings (ibid) by adding titanium tetrachloride (635 ml; 5.78 mmol) in dry dichloromethane (10 ml) to a stirred solution of benzaldehyde (1.17 ml; 11.59 mmol), P,P-diphenylphosphinic amide (2.52 g; 11.59 mmol) and anhydrous triethylamine (4.84 ml; 34.78 mmol) in dry dichloromethane (50 ml) at 0° C. Upon completion of the addition, the stirring was maintained at 0° C. for a further 4 hours. Subsequent work-up gave P,P-diphenyl-N-phenylmethylene phosphinic amide (1.4 g; 40%).

reactant | benzaldehyde | 11.59 mmol, 1.17 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | P,P-diphenylphosphinic amide | 11.59 mmol, 2.52 g | C1(=CC=CC=C1)P(N)(=O)C1=CC=CC=C1 | C12H12NOP
reactant | triethylamine | 34.78 mmol, 4.84 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 5.78 mmol, 635 ml | [Ti](Cl)(Cl)(Cl)Cl
product | P,P-diphenyl-N-phenylmethylene phosphinic amide | 1.4 g, 40% | C1(=CC=CC=C1)P(N=CC1=CC=CC=C1)(=O)C1=CC=CC=C1 | C19H16NOP
